US05086002
Preparation of Biotin-Labelled Mellitin
The mellitin peptide (10 mg) was reduced with mercaptoethanol as described for the 3.2 peptide in Example 1. After rotary evaporation, the sample was resuspended in 2 ml 0.1 M Tris-HCl, 5 mm EDTA, pH 8.0 and reacted with ml dimethylsulfoxide (DMSO), containing 4.3 mg N-iodoacetyl-N-biotinylhexylendiamine (Pierce). This was allowed to react for 15 minutes at room temperature and the biotinylated derivative separated from byproducts on a Sephadex G10 column.

reactant | mercaptoethanol | SC(C)O | C2H6OS
reactant | N-iodoacetyl-N-biotinylhexylendiamine | 4.3 mg | ICC(=O)N(CCCCCCN)C(CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12)=O | C18H31IN4O3S
product | Biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
